US09303012B2
b) 6-(Tetrahydro-furan-2-ylmethoxy)-5-trifluoromethyl-pyridine-2-carboxylic acid tert-butyl-methyl-amide
In analogy to the procedure described in Example 47 b), 6-((tetrahydrofuran-2-yl)methoxy)-5-(trifluoromethyl)picolinic acid was reacted with N,2-dimethylpropan-2-amine (CAN 94896-77-2) in the presence of TBTU and DIEA to give the title compound as colorless oil; MS (EI): m/e=361.5 [MH+].

reactant | 6-((tetrahydrofuran-2-yl)methoxy)-5-(trifluoromethyl)picolinic acid | O1C(CCC1)COC1=C(C=CC(=N1)C(=O)O)C(F)(F)F | C12H12F3NO4
reactant | N,2-dimethylpropan-2-amine | CNC(C)(C)C | C5H13N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 6-(Tetrahydro-furan-2-ylmethoxy)-5-trifluoromethyl-pyridine-2-carboxylic acid tert-butyl-methyl-amide | C(C)(C)(C)N(C(=O)C1=NC(=C(C=C1)C(F)(F)F)OCC1OCCC1)C | C17H23F3N2O3
